US05440044
A solution of 2.37 g of 2,6-dibromopyridine and 1.52 g of 3-hydroxybenzoic acid methyl ester in 10 ml of dimethylformamide is mixed with 6.6 g of cesium carbonate and heated to 120° C. with stirring for 3 hours. The reaction mixture is filtered on diatomaceous earth, rewashed with dichloromethane and the filtrate is concentrated by evaporation in a vacuum. The residue is distilled on a bulb tube at 140°-150° C. and 0.04 mbar. 2.98 g of 3-(6-bromo-2-pyridyloxy)-benzoic acid methyl ester of melting point 68°-69° C. is obtained.

reactant | 2,6-dibromopyridine | 2.37 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | 3-hydroxybenzoic acid methyl ester | 1.52 g | COC(C1=CC(=CC=C1)O)=O | C8H8O3
reactant | cesium carbonate | 6.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-(6-bromo-2-pyridyloxy)-benzoic acid methyl ester | 2.98 g | COC(C1=CC(=CC=C1)OC1=NC(=CC=C1)Br)=O | C13H10BrNO3
